US07268147B2
N-[2-(3,4-Dimethoxyphenyl)ethyl]-2-{3-[(2R)-2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]phenyl}acetamide
Prepared from 2-{3-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]phenyl}-N-[2-(3,4-dimethoxyphenyl)ethyl]acetamide (Preparation 27) according to the method for example 3 to give the title compound as a white foam after trituration with ether.

reactant | 2-{3-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]phenyl}-N-[2-(3,4-dimethoxyphenyl)ethyl]acetamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C(C=CC1)CC(=O)NCCC1=CC(=C(C=C1)OC)OC)C)C1=CC(=C(C=C1)O)CO | C36H52N2O6Si
solvent | ether | CCOCC | C4H10O
product | N-[2-(3,4-Dimethoxyphenyl)ethyl]-2-{3-[(2R)-2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]phenyl}acetamide | COC=1C=C(C=CC1OC)CCNC(CC1=CC(=CC=C1)C[C@@H](C)NC[C@@H](C1=CC(=C(C=C1)O)CO)O)=O | C30H38N2O6
